US06969717B2
A 150 mL tube was charged with 5-methyl-4-phenoxy-pyrrolo[2,1-f][1,2,4]triazin-6-ol (5.93 g, 24.6 mmol), THF (2 mL) and sodium methanethiol (5.17 mg, 73.7 mmol). The tube was sealed and the mixture was heated at 80° C. for 4 h. The mixture was cooled to RT, water was added (100 mL) and the solution was extracted with ethyl acetate (3×100 mL). Combined organic layers were washed with water (200 mL), 1N aqueous solution of sodium hydroxide (2×200 mL), brine (200 mL), dried and concentrated in vacuo to afford (3.2 g, 67%) of 5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-ol as an beige solid. 1H NMR (400 MHz, DMSO-d6) δ 9.49 (1H, s), 8.11 (1H, s), 7.39 (1H, s), 2.58 (3H, s), 2.34 (1H, s). m/z 196 (M+H+). B. A 10 mL tube was charged with 5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-ol (75 mg, 0.38 mmol), tert-butylalcohol (2 mL), (S)-propylene oxide (0.134 mL, 1.92 mmol) and triethylamine (5 μL, 0.04 mmol). The tube was sealed and the mixture was heated at 80° C. for 17 h. The mixture was cooled to RT and concentrated in vacuo. The crude material was purified by flash chromatography eluting a mixture of 50% ethyl acetate in hexane to give (56 mg, 58%) of (S)-1-(5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-propan-2-ol as an white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.16 (1H, s), 7.78 (1H, s), 4.88 (1H, m), 3.95 (m, 1H), 3.82 (2H, m), 2.59 (3H, s), 2.36 (3H, s), 1.13 (3H, d, J=6.3 Hz). m/z 254 (M+H+). C. To a solution of (S)-5-methyl-4-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-6-ol (20 mg, 0.08 mmol) in chloroform (1.0 mL) at 0° C., was added a solution of peracetic acid in acetic acid (51 μL, 0.24 mmol, 32% wt solution). The mixture was allowed to reach RT and stirred for an additional 2.0 h. A saturated solution of ammonium chloride was added and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×50 mL), the organic layers were combined, washed with water (100 mL), brine (100 mL), dried and concentrated in vacuo. The resulting sulfone was used without any purification. D. At −78° C., sodium hydride (60% in oil, 3.1 mg, 0.08 mmol) was added to a solution of 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol (13 mg, 0.09 mmol, see Example 4) in dimethyl formamide (1 mL). The mixture was stirred at 0° C. for 30 min. and cooled back down to −78° C. (S)-1-(4-methanesulfonyl-5-methylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-propan-2-ol (22 mg, 0.08 mmol) was then added and the mixture was stirred at RT for 2 h, quenched with saturated ammonium chloride (20 mL) and extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (50 mL), dried (MgSO4), filtered and evaporated. The residue was purified by preparative HPLC to yield (10 mg, 36%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 12.17 (1H, s), 8.31 (1H, d, J=9.3 Hz), 7.95 (1H, s), 7.93 (1H, s), 7.61 (1H, t, J=3.1 Hz), 6.59 (1H, dd, J=1.98, 3.3 Hz), 4.01-3.97 (1H, m), 3.92-3.83 (2H, m), 2.42 (3H, s), 1.16 (3H, d, J=6.3 Hz). m/z 358 (M+H+).

reactant | 5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-ol | 0.38 mmol, 75 mg | CC=1C(=CN2N=CN=C(C21)SC)O | C8H9N3OS
reactant | (S)-propylene oxide | 1.92 mmol, 0.134 mL | C1[C@H](C)O1 | C3H6O
reactant | triethylamine | 0.04 mmol, 5 μL | C(C)N(CC)CC | C6H15N
solvent | tert-butylalcohol | 2 mL | C(C)(C)(C)O | C4H10O
product | (S)-1-(5-methyl-4-methylsulfanylpyrrolo[2,1-f][1,2,4]triazin-6-yloxy)-propan-2-ol | 56 mg, 58% | CC=1C(=CN2N=CN=C(C21)SC)OC[C@H](C)O | C11H15N3O2S
